US07855297B2
By the reaction and treatment in the same manner as in Example 82 using N-(4-isopropylphenyl)-8-nitrochroman-4-carboxamide (4.1 g) and 1-(tert-butyloxycarbonyl)-4-(hydroxymethyl)pyrazole (2.4 g) as starting materials, N-(4-isopropylphenyl)-8-nitro-N-[(pyrazol-4-yl)methyl]chroman-4-carboxamide (2.9 g) was obtained.

reactant | N-(4-isopropylphenyl)-8-nitrochroman-4-carboxamide | 4.1 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCOC2=C(C=CC=C12)[N+](=O)[O-] | C19H20N2O4
reactant | 1-(tert-butyloxycarbonyl)-4-(hydroxymethyl)pyrazole | 2.4 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)CO | C9H14N2O3
product | N-(4-isopropylphenyl)-8-nitro-N-[(pyrazol-4-yl)methyl]chroman-4-carboxamide | 2.9 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCOC2=C(C=CC=C12)[N+](=O)[O-])CC=1C=NNC1 | C23H24N4O4
